US07652023B2
To a solution of 1-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-3-((1S,2R)-2-hydroxycyclopentyl)urea (9 mg, 0.016 mmol) in CH2Cl2 (1 mL) was added DAST (3 mg, 0.02 mmol). The reaction mixture was stirred for 5 min and concentrated under vacuum. The residue was purified by preparative HPLC Shimadzu-Phenomenex Luna 5μ column, 21.2×100 mm eluting with 10-90% CH3CN (90% in H2O, 0.1% TFA) gradient over 15 min with flow rate 20 mL/min and UV detection at 220 nm to give (3aS,6aS)-N-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-4,5,6,6a-tetrahydro-3aH-cyclopenta[d]oxazol-2-amine as a white solid (8 mg, 91%). LCMS RT=3.27 min [M+H] 551.94 (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.1% TFA; 4 mL/min, monitoring at 220 nm) NMR: 500 MHz 1H (CDCl3) 10.57 ppm, 1H, m; 8.54 ppm, 1H, m,; 7.67 ppm, 1H, m; 7.16 ppm, 5H, m; 7.05 ppm, 1H, m; 6.94 ppm, 1H, m; 6.67 ppm, 2H, m; 5.95 ppm, 1H, t; 5.19 ppm, 1H, t; 4.54 ppm, 1H, t; 3.87 ppm, 2H, m; 2.12 ppm, 1H, m; 1.91 ppm, 1H, m; 1.83 ppm, 1H, m; 1.68 ppm, 2H, m; 1.50 ppm, 1H, m.

reactant | 1-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-3-((1S,2R)-2-hydroxycyclopentyl)urea | 0.016 mmol, 9 mg | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(=O)N[C@@H]1[C@@H](CCC1)O | C27H25ClF5N3O3
reactant | DAST | 0.02 mmol, 3 mg | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (3aS,6aS)-N-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-4,5,6,6a-tetrahydro-3aH-cyclopenta[d]oxazol-2-amine | 8 mg, 91% | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC=1O[C@@H]2[C@@H](N1)CCC2 | C27H23ClF5N3O2
